US07364940B2
2.75 g of 4-[6-(3,4,5-Trifluoro-phenoxy)-hexyloxy]-benzoic acid ethyl ester was dissolved in 100 ml of 1,4-dioxane, and then 100 ml of a 1.0M NaOH solution was added thereto. After stirring for one day, the reaction solution was acidified with a 10% HCl solution and filtered to obtain a solid. The solid was recrystallized from ethanol to afford 4-[6-(3,4,5-trifluoro-phenoxy)-hexyloxy]-benzoic acid (yield: 62%).

reactant | 4-[6-(3,4,5-Trifluoro-phenoxy)-hexyloxy]-benzoic acid ethyl ester | 2.75 g | C(C)OC(C1=CC=C(C=C1)OCCCCCCOC1=CC(=C(C(=C1)F)F)F)=O | C21H23F3O4
reactant | NaOH | 1.0M | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | 1,4-dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 4-[6-(3,4,5-trifluoro-phenoxy)-hexyloxy]-benzoic acid | yield: 62% | FC=1C=C(OCCCCCCOC2=CC=C(C(=O)O)C=C2)C=C(C1F)F | C19H19F3O4
